US07858621B2
(6-Chloro-pyridin-3-yloxy)-acetic acid ethyl ester (800 mg, 3.71 mmol) in THF was added to a solution of 0.5 N-LiOH (2 eq) and the mixture was stirred for 1.5 hrs at room temperature. The resulting residue was dissolved in H2O, then washed three times with Et2O, and neutralized with 1N HCl to pH 5˜7. The solution was extracted three times with methylene chloride and then dried over anhyd. Na2SO4 and concentrated in vacuo to give (6-chloro-pyridin-3-yloxy)-acetic acid (300 mg, 36%).

reactant | (6-Chloro-pyridin-3-yloxy)-acetic acid ethyl ester | 3.71 mmol, 800 mg | C(C)OC(COC=1C=NC(=CC1)Cl)=O | C9H10ClNO3
reactant | LiOH | 2 eq | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | (6-chloro-pyridin-3-yloxy)-acetic acid | 300 mg, 36% | ClC1=CC=C(C=N1)OCC(=O)O | C7H6ClNO3
